US09169254B2
LiOH.H2O (1.55 g, 36.9 mmol) was added to a solution of 4-carbamoyl-4-{[4-(3,3,3-trifluoro-propyl)-cyclohexanecarbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester (5.53 g, 12.3 mmol) in ethanol (123 mL), and the mixture was stirred at 85° C. for two hours. A 50% saturated aqueous ammonium chloride solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was then dried over MgSO4 and concentrated under reduced pressure. The resulting residue was purified by reprecipitation with hexane-ethyl acetate=3:1 to give 4-oxo-2-[4-(3,3,3-trifluoro-propyl)-cyclohexyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester (4.88 g, 92%).

reactant | LiOH.H2O | 36.9 mmol, 1.55 g | O[Li].O
reactant | 4-carbamoyl-4-{[4-(3,3,3-trifluoro-propyl)-cyclohexanecarbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 12.3 mmol, 5.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(NC(=O)C1CCC(CC1)CCC(F)(F)F)C(N)=O | C21H34F3N3O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 123 mL | C(C)O | C2H6O
product | 4-oxo-2-[4-(3,3,3-trifluoro-propyl)-cyclohexyl]-1,3,8-triaza-spiro[4.5]dec-1-ene-8-carboxylic acid tert-butyl ester | 4.88 g, 92% | C(C)(C)(C)OC(=O)N1CCC2(C(NC(=N2)C2CCC(CC2)CCC(F)(F)F)=O)CC1 | C21H32F3N3O3
